US08278319B2
Step-5: tert-Butyl 4,4-bis(2-(methylsulfonyloxy)ethyl)piperidine-1-carboxylate
To a stirred solution of tert-butyl 4,4-bis(2-hydroxyethyl)piperidine-1-carboxylate (500 mg, 1.83 mmol) in DCM (10 ml) were added mesyl chloride (0.33 ml, 4.2 mmol) and TEA (1 ml, 7.32 mmol) at −20° C. and the mixture was stirred for 30 min maintaining the same temperature. TLC revealed completion of the reaction and it was quenched with water and extracted with DCM. The organic phase was washed with brine, dried over Na2SO4 and concentrated to dryness. The crude product was purified by column chromatography (silica (100-200), EtOAc-hexane (30%)) to yield the desired compound. Yield: 70%

reactant | tert-butyl 4,4-bis(2-hydroxyethyl)piperidine-1-carboxylate | 1.83 mmol, 500 mg | OCCC1(CCN(CC1)C(=O)OC(C)(C)C)CCO | C14H27NO4
reactant | mesyl chloride | 4.2 mmol, 0.33 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4,4-bis(2-(methylsulfonyloxy)ethyl)piperidine-1-carboxylate | Yield: 70% | CS(=O)(=O)OCCC1(CCN(CC1)C(=O)OC(C)(C)C)CCOS(=O)(=O)C | C16H31NO8S2
